US08877816B2
3-Fluoro-4-(4-fluoro-benzyl)-2-(3-nitro-phenoxy)-phenol P-13.
3-[2-Fluoro-3-(4-fluoro-benzyl)-6-methoxy-phenoxy]-phenylamine P-02. To a 200 mL pressure-resistant vial which contained a mixture of 2-fluoro-1-(4-fluoro-benzyl)-4-methoxy-3-(3-nitro-phenoxy)-benzene P-01 (180 mg, 0.5 mmole) in EtOH (10 mL) was added Ranny Ni (150 mg, excess) at rt. The reaction mixture was flashed 3 times with H2 and then shacked under H2 (40 psi) atmosphere for 2 h. After the catalyst was filtered out, the solvent was removed in vacuo to give 140 mg (85% yield) of desired product P-02.

reactant | 3-[2-Fluoro-3-(4-fluoro-benzyl)-6-methoxy-phenoxy]-phenylamine | FC1=C(OC=2C=C(C=CC2)N)C(=CC=C1CC1=CC=C(C=C1)F)OC | C20H17F2NO2
reactant | 2-fluoro-1-(4-fluoro-benzyl)-4-methoxy-3-(3-nitro-phenoxy)-benzene | FC1=C(C=CC(=C1OC1=CC(=CC=C1)[N+](=O)[O-])OC)CC1=CC=C(C=C1)F | C20H15F2NO4
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Ni | 150 mg | [Ni] | Ni
product | 3-Fluoro-4-(4-fluoro-benzyl)-2-(3-nitro-phenoxy)-phenol | 140 mg, 85% yield | FC=1C(=C(C=CC1CC1=CC=C(C=C1)F)O)OC1=CC(=CC=C1)[N+](=O)[O-] | C19H13F2NO4
